US06117866
a) 2-fluoro-4-(methylamino)benzonitrile
To a solution of 2-fluoro-4-aminobenzonitrile [Ind. Chim. Belg., 39, 490-500 (1974)] (3.8 g, 28 mmol) in anhydrous triethyl orthoformate (50 mL) was added trifluoroacetic acid (0.16 g, 1.4 mmol). The solution was heated to reflux 45 min, cooled and concentrated to give a yellow crystalline solid. To a solution of this solid in absolute ethanol (60 mL) at 0° C. was added sodium borohydride (3.2 g, 84 mmol). The resulting suspension was stirred at RT for 20 min, heated at reflux for 1 h, cooled and concentrated to give a colorless solid. This residue was partitioned between ether and water and the aqueous layer was extracted with ether. The organic phases were combined, washed with brine and dried (sodium sulfate). Concentration gave a white solid which was slurried in 35% ethyl acetate:hexane (200 mL) and filtered to give the title compound (3.7 g, 88%). mp 110-112° C.; 1H NMR (400 MHz, CDCl3) δ 7.35 (m, 1H), 6.4 (dd, 1H), 6.3 (dd, 1H), 2.9 (s, 3H).

reactant | 2-fluoro-4-aminobenzonitrile | 28 mmol, 3.8 g | FC1=C(C#N)C=CC(=C1)N | C7H5FN2
reactant | sodium borohydride | 84 mmol, 3.2 g | [BH4-].[Na+]
reactant | triethyl orthoformate | 50 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | trifluoroacetic acid | 1.4 mmol, 0.16 g | FC(C(=O)O)(F)F | C2HF3O2
product | 2-fluoro-4-(methylamino)benzonitrile | 3.7 g, 88% | FC1=C(C#N)C=CC(=C1)NC | C8H7FN2
